US07956054B2
1-((2′-(N-(methoxycarbonyl)sulfamoyl)biphenyl-4-yl)methyl)-5-propyl-1H-pyrazole-3-carboxylic acid
5-Propyl-1-(2′-sulfamoylbiphenyl-4-ylmethyl)-1H-pyrazole-3-carboxylic acid ethyl ester (80 mg, 0.2 mmol) was dissolved in methylene chloride (2.0 mL, 30.6 mmol). Methyl chloroformate (17.4 μL, 224 μmol) was added, along with DIPEA (81.5 μL, 468 μmol). The mixture was stirred at room temperature for 2 hours. 1 M LiOH in water (1.5 mL, 1.50 mmol) and THF:EtOH 2:1 mL were added and the resulting mixture was stirred for 2 hours. The reaction was quenched with 1 N HCl and DCM (4 mL) was added. The organics were extracted and dried under vacuum to yield the title compound.

reactant | 5-Propyl-1-(2′-sulfamoylbiphenyl-4-ylmethyl)-1H-pyrazole-3-carboxylic acid ethyl ester | 0.2 mmol, 80 mg | C(C)OC(=O)C1=NN(C(=C1)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O | C22H25N3O4S
reactant | methylene chloride | 30.6 mmol, 2.0 mL | C(Cl)Cl | CH2Cl2
reactant | Methyl chloroformate | 224 μmol, 17.4 μL | ClC(=O)OC | C2H3ClO2
reactant | DIPEA | 468 μmol, 81.5 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | LiOH | 1 M | [Li+].[OH-]
reactant | water | 1.50 mmol, 1.5 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOH | CCO | C2H6O
product | 1-((2′-(N-(methoxycarbonyl)sulfamoyl)biphenyl-4-yl)methyl)-5-propyl-1H-pyrazole-3-carboxylic acid | COC(=O)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1N=C(C=C1CCC)C(=O)O | C22H23N3O6S
